US09370522B2
Step 5. 1,2-bis(4-fluorophenyl)ethanone
A solution of 2-(4-fluorophenyl)acetic acid (5.0 g, 32.5 mmol, 1.00 equiv) in SOCl2 (30 mL) was heated for 3 hr at reflux in a 50-mL round-bottom flask. Most of SOCl2 was removed under vacuum, and the residue was added dropwise into a solution of AlCl3 (12.8 g, 96.2 mmol, 3.00 equiv) and fluorobenzene (6.1 g, 63.54 mmol, 2.00 equiv) in DCM (20 mL) at 0° C. The resulting solution was allowed to react, with stirring, for 2 hrs at room temperature.

reactant | 2-(4-fluorophenyl)acetic acid | 32.5 mmol, 5.0 g, 1.00 equiv | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | AlCl3 | 96.2 mmol, 12.8 g, 3.00 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 63.54 mmol, 6.1 g, 2.00 equiv | FC1=CC=CC=C1 | C6H5F
solvent | SOCl2 | 30 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,2-bis(4-fluorophenyl)ethanone | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)F)=O | C14H10F2O
